US07314888B1
In 20 ml of methanol is dissolved 4.1 g of methyl 2-isobutoxybenzoate. After adding 6 ml of 5 mol/L solution of sodium hydroxide, the mixture thus obtained is stirred at ambient temperature for 2 hours. Ethyl acetate and water are added to the reaction mixture, pH is adjusted to 2 with 2 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 3.9 g of 2-isobutoxybenzoic acid is obtained as a colorless crystalline product.

reactant | methyl 2-isobutoxybenzoate | 4.1 g | C(C(C)C)OC1=C(C(=O)OC)C=CC=C1 | C12H16O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 2-isobutoxybenzoic acid | 3.9 g | C(C(C)C)OC1=C(C(=O)O)C=CC=C1 | C11H14O3
